US06197783B1
15. (7R,8R,9R)-3-Hydroxymethyl-7,8-dihydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine
0.07 g of (8R,9R)-3-formyl-8-hydroxy-2-methyl-7-oxo-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine are dissolved in 5 ml of dry methanol, and 0.1 g of sodium borohydride is added. The mixture is stirred for 30 min and concentrated in vacuo. The oily residue is partitioned between water and chloroform. The organic layer is separated, dried over anhydrous sodium sulfate and concentrated. The product is purified by flash chromatography on silica gel (eluent: dichloromethane/methanol 9/1) to give 0.05 g of the title compound as a semi solid.

reactant | (8R,9R)-3-formyl-8-hydroxy-2-methyl-7-oxo-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine | 0.07 g | C(=O)C1=C(N=C2N1C=CC=1C([C@@H]([C@H](NC21)C2=CC=CC=C2)O)=O)C | C18H15N3O3
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (7R,8R,9R)-3-Hydroxymethyl-7,8-dihydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine | 0.05 g | OCC1=C(N=C2N1C=CC=1[C@H]([C@@H]([C@H](NC21)C2=CC=CC=C2)O)O)C | C18H19N3O3
